US06319695B1
The multi-enzyme system (Scheme 15) started with 1-13C-Gal, [99 Atom Percent, purchased from Isotec Inc., Miamisburg, Ohio), GlcNAcβOallyl (Compound 40), (Lee et al., Carbohydr. Res., 37:193 (1974)] phosphoenolpyruvate (PEP), and catalytic amounts of Glc-1-P, ATP and UDP. UDP was converted into UTP with pyruvate kinase (PK; EC 2.7.1.40) and PEP, and UTP reacted with Glc-1-P catalyzed by UDPGP to produce UDP-Glc. The byproduct inorganic pyrophosphate (PPi) was decomposed by inorganic pyrophosphatase (PPase; EC 3.6.1.1). With Gal-1-P UT, UDP-Glc reacted with 13C-Gal-1-P, generated from 13C-Gal and ATP in the presence of GK, to give UDP-13C-Gal and Glc-1-P. The 13C-Gal of UDP-13C-Gal was transferred onto the acceptor (GlcNAcβOallyl) by GalT to give [Gal-1-13C]-containing LacNAcβOallyl (Compound 41). The produced UDP was again converted to UTP by a reaction of PK and PEP, which reacted with the released Glc-1-P to regenerate UDP-Glc. Using this multienzyme system, [Gal-1-13C]-LacNAcβOallyl was obtained in 54 percent yield. The same procedure was also used in the preparation of unlabelled LacNAc and analogs. Exemplary analogs 41a-c are illustrated in the scheme.

reactant | pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-]
reactant | UDP-Glc | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
reactant | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
product | Glc-1-P | C([C@@H]1[C@H]([C@@H]([C@H](C(O1)OP(=O)(O)O)O)O)O)O | C6H13O9P
